* source SIMS
C_C7         GND VCC  4.4u  TC=0,0 
M_M2         SW1 N09572 GND GND power_Mbreakn           
C_C6         GND N10018  0.22u  TC=0,0 
R_R3         GND N10062  140k TC=0,0 
R_R1         FB VOUT  215k TC=0,0 
L_L1         SW2 N09620  0.59u  
R_R11         0 N10106  1G TC=0,0 
R_R2         GND FB  11.3k TC=0,0 
R_R4         N09386 N09398  1 TC=0,0 
C_C9         GND VOUT  220u  TC=0,0 
D_D1         VCC HB1 Dbreak 
C_C3         VDDA GND  1n  TC=0,0 
C_C11         GND COMP  150p  TC=0,0 
C_C5         HB2 SW2  0.1u  TC=0,0 
R_R6         N09620 VOUT  2.7m TC=0,0 
C_C10         GND N10254  4.7n  TC=0,0 
C_C4         SW1 HB1  0.1u  TC=0,0 
R_R5         N09404 N09410  1 TC=0,0 
R_R9         0 N09862  1G TC=0,0 
D_D2         VCC HB2 Dbreak 
R_R8         N10254 COMP  17.4k TC=0,0 
M_M4         SW2 N09590 GND GND power_Mbreakn           
C_C2         GND DITH  1n  TC=0,0 
R_R7         N09494 VOUT  2.7m TC=0,0 
R_R10         N09868 0  1G TC=0,0 
M_M1         VIN N09386 SW1 SW1 power_Mbreakn           
L_L2         SW1 N09494  0.59u  
C_C1         SS GND  120n  TC=0,0 
R_R13         GND VOUT  400m TC=0,0 
C_C8         VIN GND  12u  TC=0,0 
M_M3         VIN N09410 SW2 SW2 power_Mbreakn           
R_R12         GND DITH  1k TC=0,0 
V_V1         VIN GND 35
X_U1         GND COMP COMP N09494 N09620 VDDA DITH VIN VIN GND FB GND HB1 HB2
+  N09398 N09404 N09386 N09410 N09572 N09590 N09572 N09590 VDDA N09862 N09868 GND
+  GND N10018 N10062 SS SS SW1 SW2 N10106 VCC VCC VOUT VDDA VIN VOUT VOUT
+  LM5143-Q1_TRANS PARAMS: MODE=0
