* source SIMS
X_U1         GND COMP COMP N03223 N02929 VDDA DITH VIN VIN GND FB GND HB1 HB2
+  N01672 N02317 N01696 N02332 N01761 N01778 N01761 N01778 VDDA N06018 N06031 GND
+  GND N01820 N01583 SS SS SW1 SW2 N06051 VCC VCC VOUT VDDA VIN VOUT VOUT
+  LM5143_TRANS PARAMS: MODE=0
C_C1         SS GND  120n  TC=0,0 
C_C2         GND DITH  1n  TC=0,0 
C_C3         VDDA GND  1n  TC=0,0 
R_R1         FB VOUT  215k TC=0,0 
R_R2         GND FB  11.3k TC=0,0 
C_C4         SW1 HB1  0.1u  TC=0,0 
R_R3         GND N01583  140k TC=0,0 
C_C5         HB2 SW2  0.1u  TC=0,0 
R_R4         N01696 N01672  1 TC=0,0 
C_C6         GND N01820  0.22u  TC=0,0 
D_D1         VCC HB1 Dbreak 
D_D2         VCC HB2 Dbreak 
R_R5         N02317 N02332  1 TC=0,0 
M_M1         VIN N01696 SW1 SW1 power_Mbreakn           
M_M2         SW1 N01761 GND GND power_Mbreakn           
M_M3         VIN N02332 SW2 SW2 power_Mbreakn           
M_M4         SW2 N01778 GND GND power_Mbreakn           
L_L1         SW2 N02929  0.59u  
R_R6         N02929 VOUT  2.7m TC=0,0 
R_R7         N03223 VOUT  2.7m TC=0,0 
L_L2         SW1 N03223  0.59u  
C_C7         GND VCC  4.4u  TC=0,0 
C_C8         VIN GND  12u  TC=0,0 
C_C9         GND VOUT  220u  TC=0,0 
R_R8         N05200 COMP  17.4k TC=0,0 
C_C10         GND N05200  4.7n  TC=0,0 
C_C11         GND COMP  150p  TC=0,0 
R_R9         0 N06018  1G TC=0,0 
R_R10         N06031 0  1G TC=0,0 
R_R11         0 N06051  1G TC=0,0 
R_R12         GND DITH  1k TC=0,0 
R_R13         GND VOUT  400m TC=0,0 
